US08791161B2
N-{5-chloro-2-[(2-pyridin-2-ylethyl)thio]phenyl}-1-benzofuran-2-sulfonamide
Following General Procedure B, the title compound was prepared from 5-chloro-2-((2-(pyridin-2-yl)ethyl)thio)aniline (439 mg, 1.663 mmol) and benzofuran-2-sulfonyl chloride (2×359 mg, 2×1.663 mmol) in pyridine (5 ml).

reactant | 5-chloro-2-((2-(pyridin-2-yl)ethyl)thio)aniline | 1.663 mmol, 439 mg | ClC=1C=CC(=C(N)C1)SCCC1=NC=CC=C1 | C13H13ClN2S
reactant | benzofuran-2-sulfonyl chloride | 1.663 mmol, 359 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | N-{5-chloro-2-[(2-pyridin-2-ylethyl)thio]phenyl}-1-benzofuran-2-sulfonamide | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCCC2=NC=CC=C2 | C21H17ClN2O3S2
